US03933804
2.21 g (0.01 mol) of 1-bromo-4-isobutoxy-2-methyl-2-butene are added at 0° during the course of 5 minutes to 1.38 g (0.01 mol) of 3,4-methylendioxy-phenol and 0.56 g (0.01 mol) of potassium hydroxide in 40 cc of 1,2-dimethoxyethane. After stirring the reaction mixture at room temperature for 24 hours it is filtered and the solvent is distilled off at reduced pressure. The residue is dissolved in ether, washed with saturated salt solution, dried with sodium sulphate and evaporated. The residue is purified by chromatography on silica gel with hexane/ethyl acetate 9 : 1. 5-(4-isopropoxy-2-methyl-2-butenyloxy)-1,3-benzodioxol is obtained as colourless oil. nD20 = 1.5150.

reactant | 1-bromo-4-isobutoxy-2-methyl-2-butene | 0.01 mol, 2.21 g | BrCC(=CCOCC(C)C)C | C9H17BrO
reactant | 3,4-methylendioxy-phenol | 0.01 mol | C1OC=2C=C(C=CC2O1)O | C7H6O3
reactant | potassium hydroxide | 0.01 mol, 0.56 g | [OH-].[K+]
reactant | 1,2-dimethoxyethane | 40 cc | COCCOC | C4H10O2
product | 5-(4-isopropoxy-2-methyl-2-butenyloxy)-1,3-benzodioxol | C(C)(C)OCC=C(COC1=CC2=C(OCO2)C=C1)C | C15H20O4
